US04387097
(1R*,2S*)-1-(3-Methoxyphenyl)-2-methylamino-1-cyclopentanol
Crude 1-(3-methoxyphenyl)cyclopentene oxide (prepared according to the method of Ger. Offen. No. 2,942,644) is treated with ethanolic methylamine solution by the method of Example 1(b) above to give the title compound.

reactant | 1-(3-methoxyphenyl)cyclopentene oxide | COC=1C=C(C=CC1)C12C(CCC1)O2 | C12H14O2
reactant | methylamine | CN | CH5N
product | (1R*,2S*)-1-(3-Methoxyphenyl)-2-methylamino-1-cyclopentanol | COC=1C=C(C=CC1)[C@]1([C@H](CCC1)NC)O | C13H19NO2
